US08030518B2
Step G: N-(5-(4-fluorophenylamino)-1,3-dimethyl-5,6,7,8-tetrahydro naphthalen-2-yl)-3,3-dimethylbutanamide
A mixture of N-(1,3-dimethyl-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3,3-dimethylbutanamide (150 mg, 0.52 mmol), 4-fluoroaniline (116 mg, 1.04 mmol), and pTSA (20 mg) in 20 ml of m-xylene was heated at 160° C. for 6 hours. The solvent was removed in vacuo, and the residue was dissolved in a mixture of methanol (10 ml) and acetic acid (2 ml). Sodium cyanoborohydride (49 mg, 0.78 mmol) was added, and the resulting mixture was stirred at room temperature for 2 hours. After neutralization with saturated sodium bicarbonate, the mixture was extracted with chloroform (×3). The organic layer were combined, dried over anhydrous Na2SO4 and evaporated to dryness in vacuo. The residue was purified by Biotage (hexane/EtOAc, 0-30%, 40 min) to give a white solid (75 mg, 38%). 1H-NMR δ (DMSO-d6, 500 MHz): 9.09 (brs, 1H, exchangeable with D2O), 7.00 (s, 1H), 6.89 (t, J=7.5 Hz, 2H), 6.65 (dd, J=5.7 and 7.5 Hz, 2H), 5.70 (brs, 1H, exchangeable with D2O), 4.45 (m, 1H), 2.61 (m, 1H), 2.51 (m, 1H), 2.20 (s, 2H), 2.06 (s, 3H), 1.99 (s, 3H), 1.84 (m, 1H), 1.73 (m, 3H), 1.04 (s, 9H). MS: 383 (M+1).

reactant | N-(1,3-dimethyl-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3,3-dimethylbutanamide | 0.52 mmol, 150 mg | CC1=C(C(=CC=2C(CCCC12)=O)C)NC(CC(C)(C)C)=O | C18H25NO2
reactant | 4-fluoroaniline | 1.04 mmol, 116 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | pTSA | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | Sodium cyanoborohydride | 0.78 mmol, 49 mg | C(#N)[BH3-].[Na+]
solvent | m-xylene | 20 ml | C1(=CC(=CC=C1)C)C | C8H10
product | N-(5-(4-fluorophenylamino)-1,3-dimethyl-5,6,7,8-tetrahydro naphthalen-2-yl)-3,3-dimethylbutanamide | 75 mg, 38% | FC1=CC=C(C=C1)NC1C=2C=C(C(=C(C2CCC1)C)NC(CC(C)(C)C)=O)C | C24H31FN2O
